### PR TITLE
natural logarithm for the extended reals and some simple lemmas

### PR DESCRIPTION
**Pull request by jmmarulang**
##### Motivation for this change
the natural logarithm for the extended reals is needed for extending hoelder into the extended reals.

##### Checklist

- [X] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [X] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: experimental_reals/discrete.v [hunk 1]
```diff
@@ -4,7 +4,7 @@
 (* Copyright (c) - 2016--2018 - Polytechnique                           *)
 
 (* -------------------------------------------------------------------- *)
-From Corelib Require Setoid.
+From Coq Require Setoid.
```
Comment (affeldt-aist) [inline experimental_reals/discrete.v:7]: Be careful *not* to commit these changes to the `reals/reals.v` and `experimental_reals/discrete.v` files.
They are rewritten automatically by `make`, this is part of our strategy to move from `coq` to `rocq`.

File: theories/exp.v [hunk 2]
```diff
@@ -535,7 +536,7 @@ case: (lerP 1 x) => [/expR_total_gt1[y [_ _ Hy]]|x_lt1 x_gt0].
 have /expR_total_gt1[y [H1y H2y H3y]] : 1 <= x^-1 by rewrite ltW // !invf_cp1.
 by exists (-y); rewrite expRN H3y invrK.
 Qed.
-
+Lemma norm_expR : normr \o expR = (expR : R -> R). Proof. by apply/funext => x /=; rewrite ger0_norm ?expR_ge0. Qed.
```
Comment (affeldt-aist) [inline theories/exp.v:539]: A number of lines seem to break the 80 characters convention.

File: CHANGELOG.md [hunk 3]
```diff
@@ -47,6 +47,11 @@ Latest releases: [[1.11.0] - 2025-05-02](#1110---2025-05-02), [[1.10.0] - 2025-0
   + lemmas `expeR_eqy`
   + lemmas `lt0_ln`
   + lemmas `lt0_powR`, `powR_eq1`
+  + Section `Lne`
```
Comment (affeldt-aist) [inline CHANGELOG.md]: This is not necessary to document sections' names because their change is unlikely to bother users.

File: theories/exp.v [hunk 4]
```diff
@@ -1129,6 +1129,113 @@ Qed.
...
+  | +oo => +oo
+  | -oo => 0 
+  end.
+  
+  Lemma lne0 x : x < 0 -> lne x = 0.
+  Proof.
+  by move: x => [x||]//=; rewrite lte_fin => ?; rewrite lt_eqF ?ln0 ?ltW.
+  Qed.
+  
+  Lemma lner r : (r != 0)%R -> lne (r%:E) = (ln r)%:E.
```
Comment (affeldt-aist) [inline theories/exp.v:1150]: Maybe rename to `lne_EFin`?

File: theories/exp.v [hunk 5]
```diff
@@ -1129,6 +1129,113 @@ Qed.
 End PowR.
 Notation "a `^ x" := (powR a x) : ring_scope.
 
+Section Lne.
+  Variable R : realType.
```
Comment (affeldt-aist) [inline theories/exp.v:1133]: Remove the indent here (you're losing two characters without much benefit).

File: theories/exp.v [hunk 6]
```diff
@@ -1129,6 +1129,113 @@ Qed.
...
+  
+  Lemma lner r : (r != 0)%R -> lne (r%:E) = (ln r)%:E.
+  Proof. by move => /negbTE //= ->. Qed.
+  
+  Lemma expeRK : cancel expeR lne.
+  Proof. by case=> //=[x|]; rewrite ?eqxx ?gt_eqF ?expR_gt0 ?expRK. Qed.
+  
+  (*x  \is Num.pos -> exp (ln x) = x*)
+  Lemma lneK x : 0 < x ->  expeR (lne x) = x.
+  (* {in Num.pos, cancel lne (@expeR R)}.*)
```
Comment (affeldt-aist) [inline theories/exp.v:1158]: Why not use `cancel`? It looks more idiomatic.

File: theories/exp.v [hunk 7]
```diff
@@ -1129,6 +1129,113 @@ Qed.
...
+  Lemma lneXn n x : 0 < x -> lne (x ^+ n) = lne x *+ n.
+  Proof.
+  case: n => [/=|]; first by rewrite ifF ?ln1// gt_eqF.
+  case: x => //[r|] n; rewrite ?lte_fin => x0.
+  - by rewrite -EFin_expe /lne !gt_eqF// -?EFin_natmul ?exprn_gt0// lnXn.
+  - case: n => //n; rewrite expeS gt0_mulye ?expe_gt0// ?enatmul_pinfty.
+  - by case: n => //n; rewrite expeS gt0_mulye ?expe_gt0// ?enatmul_pinfty.
+  Qed.
+
+  Lemma le_lne1Dx x : -(1) < x -> lne (1 + x) <= x.
```
Comment (affeldt-aist) [inline theories/exp.v:1210]: Parentheses are not necessary around `1`.

File: theories/exp.v (hunk 2 above)
Comment (jmmarulang) [reply theories/exp.v:539]: fixed this

File: theories/exp.v [hunk 8]
```diff
@@ -1105,6 +1106,26 @@ move=> x_gt0; split.
...
 
+Lemma lt0_powR {x} {p} : (x < 0)%R -> x `^ p = 1.
+Proof.
+move => lts0; rewrite /powR; case : ifP => /eqP eqs0.
+- by rewrite eqs0 in lts0; move : lts0; rewrite ltxx.
+- move : lts0; rewrite lt_def => /andP [? les0].
+  by rewrite (ln0 les0) mulr0 expR0.
+Qed.
+
+Lemma powR_eq1 x p : (x `^ p == 1) = (x == 1) || (x < 0) || (p == 0).
```
[the remark this answers is not in the document]
Comment (jmmarulang) [reply theories/exp.v:1117]: I think this only allows for booleans?

File: theories/exp.v (hunk 5 above)
Comment (jmmarulang) [reply theories/exp.v:1133]: fixed this

File: theories/exp.v (hunk 6 above)
Comment (jmmarulang) [reply theories/exp.v:1158]: changed to cancel

**Comment by affeldt-aist** [comment]
> @jmmarulang This is your master that you are PRing, is that ok?

I will open a new PR to avoid any problem.

File: theories/exp.v [hunk 9]
```diff
@@ -766,6 +773,12 @@ have [x0|x0 x1] := leP x 0; first by rewrite ln0.
 by rewrite -ler_expR expR0 lnK.
 Qed.
 
+Lemma lt0_ln (x : R) : x < 0 -> ln x = 0.
```
Comment (affeldt-aist) [inline theories/exp.v:776]: Maybe not needed since this is almost `ln0`.
